US08466167B2
To a solution of ethyl 3-methyl-4-((triethylsilyl)ethynyl)benzoate (from the previous step) (1.0 eq.) in THF (0.3 M) at 0° C. was added dropwise 1.0 M TBAF in THF (1.2 eq.). After stirring for 10 minutes at 0° C., the reaction was quenched with saturated aqueous sodium bicarbonate solution. The two phases were separated, and the aqueous layer was extracted with ether. The combined organic layers were washed with brine, dried over anhydrous MgSO4, and concentrated en vaccuo. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-5% ethyl acetate in hexane to give ethyl 4-ethynyl-3-methylbenzoate as a white solid.

reactant | ethyl 3-methyl-4-((triethylsilyl)ethynyl)benzoate | CC=1C=C(C(=O)OCC)C=CC1C#C[Si](CC)(CC)CC | C18H26O2Si
reactant | TBAF | 1.0 M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 0.3 M | C1CCOC1 | C4H8O
solvent | THF | 1.2 eq. | C1CCOC1 | C4H8O
product | ethyl 4-ethynyl-3-methylbenzoate | C(#C)C1=C(C=C(C(=O)OCC)C=C1)C | C12H12O2
